US08710223B2
Synthesis of 4-(2,2,6,6-tetramethylpiperidin-4-ylamino)-2-(2-fluoro-4-isopropyl-5-(1H-tetrazol-1-yl)phenylamino)pyrimidine-5-carbonitrile
A mixture of 2-chloro-5-cyano-N-(2,2,6,6-tetramethylpiperidin-4-yl)pyrimidin-4-amine (0.05 g, 0.17 mmol, 1 equiv), 4-isopropyl-2-fluoro-5-(1H-tetrazol-1-yl)benzenamine (0.045 g, 0.204 mmol, 1.2 equiv), and para-toluenesulfonic acid monohydrate (0.025 g, 0.136 mmol, 0.8 equiv) in IPA (5 mL) were heated to 80° C. overnight. LCMS indicated desired product plus approximately 10% of 5-fluoro-2-isopropoxy-N-(2,2,6,6-tetramethylpiperidin-4-yl)pyrimidin-4-amine byproduct. After cooling to ambient temperature, the crude mixture was quenched with 2M NH3/MeOH followed by concentrating to dryness and repeating once. The crude product was purified by flash chromatography and eluted with DCM:2M NH3/MeOH (100:0 to 95:5 using 1% 2M NH3/MeOH increments) to provide the desired product which was recrystallized with DCM/IPA to give the title compound (45 mg, 55%) as a solid.

reactant | 2-chloro-5-cyano-N-(2,2,6,6-tetramethylpiperidin-4-yl)pyrimidin-4-amine | 0.17 mmol, 0.05 g, 1 equiv | ClC1=NC=C(C(=N1)NC1CC(NC(C1)(C)C)(C)C)C#N | C14H20ClN5
reactant | 4-isopropyl-2-fluoro-5-(1H-tetrazol-1-yl)benzenamine | 0.204 mmol, 0.045 g, 1.2 equiv | C(C)(C)C1=CC(=C(C=C1N1N=NN=C1)N)F | C10H12FN5
reactant | para-toluenesulfonic acid monohydrate | 0.136 mmol, 0.025 g, 0.8 equiv | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | 5-fluoro-2-isopropoxy-N-(2,2,6,6-tetramethylpiperidin-4-yl)pyrimidin-4-amine | FC=1C(=NC(=NC1)OC(C)C)NC1CC(NC(C1)(C)C)(C)C | C16H27FN4O
solvent | IPA | 5 mL | CC(C)O | C3H8O
product | 4-(2,2,6,6-tetramethylpiperidin-4-ylamino)-2-(2-fluoro-4-isopropyl-5-(1H-tetrazol-1-yl)phenylamino)pyrimidine-5-carbonitrile | CC1(NC(CC(C1)NC1=NC(=NC=C1C#N)NC1=C(C=C(C(=C1)N1N=NN=C1)C(C)C)F)(C)C)C | C24H31FN10
